US07429665B2
2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline
To a solution of 2-[-4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenoxymethyl}-quinoline (1.72 g) in ethanol (20 ml) was added methyl hydrazine (3.5 ml, 1.5 eq.) and concentrated sulfuric acid (0.1 ml). The reaction mixture was stirred 1 h at ambient temperature and solvent evaporated. The reaction mixture was partitioned between methylene chloride and saturated sodium bicarbonate. The layers were separated and the organic layer dried magnesium sulfate, filtered and concentrated. Preparative HPLC chromatography provided the title compound (major isomer) as a clear oil (0.97 g, 56%). 1H NMR (400 MHz, CDCl3) δ 8.44 (d, J=5.0 Hz, 2 H), 8.17 (d, J=8.7 Hz, 1 H), 8.05 (d, J=8.3 Hz, 1H), 7.81 (d, J=7.9 Hz, 1 H), 7.70 (m, 1 H), 7.66 (d, J=8.7 Hz, 1H), 7.54 (s, 1H), 7.53 (m, 1H), 7.37 (d, J=8.7 Hz, 2H) 7.15 (d, J=5.0, 2H), 7.00 (d, J=8.7 Hz, 2H), 5.38 (s, 2H), 3.93 (s, 3H); MS: (M+H m/z=393.3).

reactant | 2-[-4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenoxymethyl}-quinoline | 1.72 g | N1=CC=C(C=C1)C1=C(NN=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C24H18N4O
reactant | methyl hydrazine | 3.5 ml, 1.5 eq. | CNN | CH6N2
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | 0.97 g, 56% | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H20N4O
